US07405219B2
3-(3-Aminobenzyl)-7-(2-furyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidine-5-amine (Example 5)
A solution of 7-(2-furyl)-3-(3-nitrobenzyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidine-5-amine (152 mg, 0.45 mmol) in EtOH (2 mL) at 50° C. was treated with a solution of SnCl2 (305 mg, 1.35 mmol) in conc. HCl (0.7 mL), stirred for 2 h, cooled, diluted with water, basified to pH 10 (5-M, NaOH) and filtered to give the title compound (127 mg, 92%) as a white solid.

reactant | 7-(2-furyl)-3-(3-nitrobenzyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidine-5-amine | 0.45 mmol, 152 mg | O1C(=CC=C1)C=1C2=C(N=C(N1)N)N(N=N2)CC2=CC(=CC=C2)[N+](=O)[O-] | C15H11N7O3
reactant | SnCl2 | 1.35 mmol, 305 mg | Cl[Sn]Cl
reactant | NaOH | [OH-].[Na+]
solvent | EtOH | 2 mL | CCO | C2H6O
solvent | HCl | 0.7 mL | Cl | ClH
solvent | water | O | H2O
product | 3-(3-Aminobenzyl)-7-(2-furyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidine-5-amine | 127 mg, 92% | NC=1C=C(CN2N=NC3=C2N=C(N=C3C=3OC=CC3)N)C=CC1 | C15H13N7O
